US08357693B2
tert-Butyl 5-(2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate
A suspension of 4-chloro-2-(3-nitrophenyl)quinazoline (6.3 g, 21.9 mmole), tert-butyl 5-amino-1H-indazole-1-carboxylate (5.10 g, 21.9 mmole) in isopropanol (300 mL) was heated at 95° C. for 1.5 h. The suspension was filtered and the filtered solid was washed with isopropanol. The product was dried under high vacuum for several hours to give the desired product tert-butyl 5-(2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate. (8.3 g, mmol, 79%).

reactant | 4-chloro-2-(3-nitrophenyl)quinazoline | 21.9 mmole, 6.3 g | ClC1=NC(=NC2=CC=CC=C12)C1=CC(=CC=C1)[N+](=O)[O-] | C14H8ClN3O2
reactant | tert-butyl 5-amino-1H-indazole-1-carboxylate | 21.9 mmole, 5.10 g | NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C12H15N3O2
solvent | isopropanol | 300 mL | C(C)(C)O | C3H8O
product | tert-butyl 5-(2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | [N+](=O)([O-])C=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C26H22N6O4
